US04077941
Nickel bis(N-methyl-N-p-n-butylphenyl-β-alanine)
To a stirred solution of N-methyl-p-n-butylphenyl-β-alanine (7.85 g., 0.03 mole) in 250 ml of water was added 15 ml. of 2N sodium hydroxide solution. The hazy solution was clarified by filtration, and a solution of nickel chloride hexahydrate (3.58 g., 0.015 mole) in 50 ml of water was added dropwise to the filtrate. The nickel salt precipitated from solution during the addition, and after the addition was completed the mixture was stirred at room temperature for three hours. The precipitated nickel salt was filtered off and washed with water. After drying for 72 hours over P2O5 the salt was dissolved in benzene. The benzene solution was filtered, the filtrate evaporated and the green residue thus obtained heated at 80°-85° at 0.01 mm for 17 hours to give 7 g (90%) of the title compound.

reactant | N-methyl-p-n-butylphenyl-β-alanine | 0.03 mole, 7.85 g | CN(CCC(=O)O)C1=CC=C(C=C1)CCCC | C14H21NO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | nickel chloride hexahydrate | 0.015 mole, 3.58 g | O.O.O.O.O.O.[Ni](Cl)Cl
solvent | water | 250 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | Nickel bis(N-methyl-N-p-n-butylphenyl-β-alanine) | 7 g, 90% | CN(CCC(=O)O)C1=CC=C(C=C1)CCCC.CN(CCC(=O)O)C1=CC=C(C=C1)CCCC.[Ni] | InChI=1S/2C14H21NO2.Ni/c2*1-3-4-5-12-6-8-13(9-7-12)15(2)11-10-14(16)17;/h2*6-9H,3-5,10-11H2,1-2H3,(H,16,17);
